EE18BTECH11014_1.NET - OPAMP CLOSED-LOOP STEP RESPONSE FOR PHASE MARGIN 90.0 DEGREES
* STEP INPUT
VS	1	0	AC	1	PWL(0US 0V   0.1US 1V   10US 1V)
*

RF	2	0	10
RM	2	7	316.2K
XOP	1 2 	4	OPAMP1
R1	4	5	0.1K
C1	5	0	0.15915N
R2	5	6	1K
C2	6	0	0.15915N
R3	6	7	10K
C3	7	0	0.15915N

.SUBCKT OPAMP1      1   2 4
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN (100K)
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	3 0	1 2	100K
ROUT	3	4	5
.ENDS

* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.01US  1.5US
*

* VIEW RESULTS
.control
run
plot V(1)V(7)
wrdata ee18btech11014_1.dat V(7)
.endc 

.end

